Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weight loss/depression
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Over the past several months she has been feeling more down. She 
has had a very limited appetite. At first, she was just missing 
a meal occasionally, but as the summer went on, she was 
struggling to eat in general. She was not intentionally trying 
to lose weight, has not taken any medications aimed at weight 
loss, reports no issues with body image. She has had loss of 
interest in the activities she enjoys, so much so that she has 
stopped making social plans. She has also had trouble 
concentrating and low energy, but no psychomotor changes, no 
thoughts of self harm and no suicidal ideations. The only time 
she has felt depressed like this was her first major depressive 
episode in ___. At first, it was thought to be related to 
adjustment after her brother passed from an overdose, but 
eventually required treatment with therapy and citalopram. She 
has been stable on citalopram since and reports no other 
depressive episodes until now. She has had on and off diarrhea 
for the past few months, has had significant nausea that she 
attributes to anxiety, and has had ~1 episode of emesis a week. 
She has had no tremors or parasthesias. She has not been purging 
or using laxatives. She has not had suicidal ideations, auditory 
hallucinations or visual hallucinations. She was seen by her PCP 
who checked labs and found hypomagnesemia, hypocalcemia and 
transaminitis. She was encouraged to present to the ED for 
evaluation. 
 
Past Medical History:
Depression/anxiety
Abnormal pap smear in ___ - atypical squamous cells of unknown
origin. Last pap ___ was normal. 
Iron deficiency anemia
GERD
 
Social History:
___
Family History:
Brother died in ___ from overdose
Mother with HTN
Father with HTN and anemia
 
Physical Exam:
ADMISSION:
===========
VITALS:Temp 98.4, BP 124/84, HR 90, RR 16, SpO2 100 on RA.
GENERAL: Alert and interactive. In no acute distress. Appears 
thin.
HEENT: EOMI. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Soft, nontender, nondistended. 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. Cap refill <2s. No rashes, no lanugo.
NEUROLOGIC: Awake and fully interactive, no noted asymmetries, 
moving all four limbs spontaneously. 
PSYCH: flat affect, quiet voice, denies SI, fair insight

DISCHARGE:
===========
VITALS:Temp 97.7, BP 105/69, HR 94, RR 16, SpO2 98 on RA.
GENERAL: Alert and interactive. In no acute distress. Appears 
thin.
HEENT: EOMI. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Soft, nontender, nondistended. 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. Cap refill <2s. No rashes, no lanugo.
NEUROLOGIC: Awake and fully interactive, no noted asymmetries, 
moving all four limbs spontaneously. 
PSYCH: flat affect, quiet voice, denies SI, fair insight

 
Pertinent Results:
ADMISSION LABS
===============
CBC: Hgb 11.8, MCV 70, Plt Ct ___
BMP: UreaN 4, AnGap 9, Albumin 2.7, Calcium 7.9, Mg 1.3
LFT: ALT 15, AST 146, AlkPhos 258
Iron studies: calTIBC 216, Ferritn-13, TRF 166

DISCHARGE LABS
===============
CBC: Hgb 8.9, MCV 72, Plt Ct ___
BMP: UreaN 6, AnGap 6, Albumin 2.0, Calcium 7.4, Mg 1.7
LFT: ALT 98, AST 90, AlkPhos 179
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with a history of depression (was on 
citalopram, now sertraline)and GERD (on omeprazole) who 
presented with 25 pounds of weight loss since ___, likely 
secondary to major depressive episode, c/b electrolyte 
derangements and transaminitis. 

ACUTE/ACTIVE ISSUES:
====================
# Anxiety/depression
She has a history of a major depressive episode after brother 
died in ___. She has since felt well on citalopram. In the past 
few months, her depression and anxiety has been worsening again 
in the setting of having important certifying exams. On the day 
of her admission, she met depressed mood + ___ criteria: sleep 
(trouble staying asleep), low interest in activities she used to 
like, low energy, poor concentration and most notably, poor 
appetite. She has no feelings of guilt, psychomotor changes and 
no SI or ideas of self-harm. Her new PCP switched her from 
citalopram 40mg to sertraline 100 mg on ___. Psychiatry 
evaluated her, and recommended continuing her on sertraline and 
starting 0.5 mg Lorazepam BID. They did not feel further 
inpatient management was necessary.
[] Patient has follow-up with social work on ___. 
[] Would strongly recommend patient establishes with a 
psychiatrist outpatient. She was provided with the number 
___ to be referred to outpatient psychiatry at ___.
[] Patient is being discharged on Lorazepam 0.5mg BID. She 
should have enough medication to last until her PCP appointment 
on ___. 

# Transaminitis 
Her ALT, AST, and alk phos are all elevated. Her total bilirubin 
is not elevated and there is no evidence of cholestasis on her 
ultrasound. There is evidence of steatosis which has been 
described in the setting of refeeding after significant weight 
loss and fasting. Weight loss and fasting alone are associated 
with elevation in LFTs and is like the etiology of her 
transaminitis. Other considerations could include medications or 
substances, which she denies. Viral is unlikely given hepatitis 
B, HAV IgG, and HIV are all negative. We rechecked LFTs as 
nutritional status improved and rule out other etiologies such 
as autoimmune. LFTs decreased as calorie intake increased.
[] Would recommend repeat liver function tests at her PCP 
appointment on ___ to further monitor her liver function. 

# Electrolyte disturbance: Hypokalemia and Hypomagnesemia
# Malnutrition
She had a 25 pound weight loose since ___. The weight loss is 
most likely associated with poor appetite in the setting of a 
major depressive episode. She is not trying to lose weight and 
does not purge. We consulted psych, social work, and nutrition. 
We repleted electrolytes, gave thiamine, and increased caloric 
intake, with stable labs at time of discharge.
[] Would recommend repeat complete metabolic panel at her PCP 
appointment on ___ to further monitor her electrolytes. 

# Iron-deficiency anemia: 
Her Hbg at admission was 11.8 and has dropped to 8.9. She has 
been at 7.5 according to ___ records. TIBC of 216 and 
transferrin of 166. Her transferrin could be low in the setting 
of poor synthetic function due to malnutrition. Continued her 
iron supplements.
[] Would recommend repeat CBC at her PCP appointment on ___ to 
further monitor blood counts
[] ___ require IV iron infusion in the future if continues to 
have iron deficiency despite PO repletion

CHRONIC/STABLE ISSUES:
======================
#. GERD:
Continued home omeprazole 

Transitional ISSUES
===================
[] Patient has follow-up with social work on ___. 
[] Would strongly recommend patient establishes with a 
psychiatrist outpatient. She was provided with the number 
___ to be referred to outpatient psychiatry at ___.
[] Patient is being discharged on Lorazepam 0.5mg BID. She 
should have enough medication to last until her appointment on 
___.
[] Would recommend repeat liver function tests at her PCP 
appointment on ___ to further monitor her liver function. 
[] Would recommend repeat complete metabolic panel at her PCP 
appointment on ___ to further monitor her electrolytes. 
[] Would recommend repeat CBC at her PCP appointment on ___ to 
further monitor blood counts.
[] ___ require IV iron infusion in the future if continues to 
have iron deficiency despite PO repletion
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Sertraline 100 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID Duration: 6 Days 
Take it twice a day until your PCP appointment on ___ 
RX *lorazepam 0.5 mg 1 tablet by mouth twice a day Disp #*14 
Tablet Refills:*0 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
========
Depression/Anxiety

Secondary
=========
Transaminitis
Malnutrition
Iron-deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital for depression and anxiety that led 
to decreased appetite and a 23 pound weight loss in the past few 
months.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We monitored your electrolytes closely and gave you nutrients 
back as needed.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- You can call ___ to be referred to outpatient 
psychiatry at ___.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___